US05106878
150 ml of nitrobenzene were cooled in an ice-bath and treated portionwise with 41 g of aluminium chloride. In so doing, the temperature was held at below 5°. Subsequently, a solution of 50 g of 4-nitrobenzoyl chloride in 50 ml of nitrobenzene was added dropwise in such a manner that the temperature remains at below 5°. At the same temperature there were added dropwise 27.8 g of anisole. Subsequently, the mixture was stirred at 20° overnight. The solution was poured on to 1 liter of ice-water, extracted with methylene chloride, dried over magnesium sulphate and concentrated. The nitrobenzene was distilled off in a high vacuum and the yellowish crystals which remained were recrystallized from cyclohexane. There were obtained 36.5 g (52%) of 4-methoxy-4'-nitrobenzophenone as a yellow solid; m.p. 124°.

reactant | aluminium chloride | 41 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-nitrobenzoyl chloride | 50 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | anisole | 27.8 g | C1(=CC=CC=C1)OC | C7H8O
solvent | nitrobenzene | 50 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | nitrobenzene | 150 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 4-methoxy-4'-nitrobenzophenone | 36.5 g, 52% | COC1=CC=C(C(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C14H11NO4
